US05354913
To a solution of methyl (R)-7-(4-fluorophenyl)-7-(2-hydroxy-3,4,6-trimethylphenyl)heptanoate (0.8 g, 2.1 ol) and dichloromethyl methyl ether (0.62 ml) in dichloromethane (10 ml) was added dropwise a solution of titanium tetrachloride (0.76 ml) in dichloromethane (3 ml) under argon atmosphere while maintaining the temperatures of the reaction mixture at a range from -10° C. to -12° C. The reaction mixture was then stirred for 30 minutes at the same temperature range. The reaction mixture was then added to ice-water, which was subjected to extraction with ethyl acetate. The organic layer was washed with water, an aqueous solution of sodium hydrogencarbonate, water and a saturated aqueous saline solution, successively, followed by drying over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from chloroform/hexane to afford 0.63 g of methyl (R)-7-(4-fluorophenyl)-7-(3-formyl-6-hydroxy-2,4,5-trimethylphenyl)heptanoate. Physico-chemical properties and spectral data of the product were shown in [Table 4].

reactant | methyl (R)-7-(4-fluorophenyl)-7-(2-hydroxy-3,4,6-trimethylphenyl)heptanoate | 0.8 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)OC)C1=C(C(=C(C=C1C)C)C)O | C23H29FO3
reactant | dichloromethyl methyl ether | 0.62 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 0.76 ml | [Ti](Cl)(Cl)(Cl)Cl
product | methyl (R)-7-(4-fluorophenyl)-7-(3-formyl-6-hydroxy-2,4,5-trimethylphenyl)heptanoate | 0.63 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)OC)C1=C(C(=C(C(=C1O)C)C)C=O)C | C24H29FO4
